US04435322
1-(2-Ethoxycarbonylethyl)-4-(hydroxymethyl)-2-azetidinone
4.5 g. (18.5 mmoles) of ethyl 1-(2-ethoxycarbonylethyl)-4-oxo-2-azetidine-carboxylate prepared according to Example 4 are dissolved in 20 ml. of dry ethanol, whereupon 1.4 g. (37 mmoles) of sodium tetrahydroborate(III) are added to the solution at 0° C., with stirring. The reaction mixture is stirred for an additional hour, and is then evaporated in vacuo, at room temperature. The residue is dissolved in 20 ml. of saturated aqueous hydrochloric acid solution and the pH of the solution is adjusted to 6.5 by addition of a 5% aqueous hydrochloric acid solution. The mixture is extracted with three 30-ml. portions of chloroform, dried with magnesium sulfate and filtered. The remaining solution is evaporated in vacuo. 3.1 g. (83%) of the named compound are obtained.

reactant | ethyl 1-(2-ethoxycarbonylethyl)-4-oxo-2-azetidine-carboxylate | 18.5 mmoles | C(C)OC(=O)CCN1C(CC1=O)C(=O)OCC | C11H17NO5
solvent | ethanol | C(C)O | C2H6O
product | 1-(2-Ethoxycarbonylethyl)-4-(hydroxymethyl)-2-azetidinone | 83% | C(C)OC(=O)CCN1C(CC1CO)=O | C9H15NO4
